US05212187
N-[3-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]-propyl]-N'-cyano-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.5 g (1.57 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,3-propanediamine and 0.6 g (1.5 mmol) of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography (eluant: ethyl acetate) analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int.[%])=616 ([M+H]+, 1), 230 (100).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,3-propanediamine | 1.57 mmol, 0.5 g | ClC1=CC=C(C=C1)C(CCN(CCCN)C)C1=NC=CC=C1 | C18H24ClN3
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | 1.5 mmol, 0.6 g | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]-propyl]-N'-cyano-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | ClC1=CC=C(C=C1)C(CCN(C)CCCNC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NC#N)C1=NC=CC=C1 | C35H46ClN7O
